US07705042B2
a) 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester
A flask charged with 1H-imidazole-4-carboxylic acid methyl ester (0.54 g, 4.3 mmol), 2-(trimethylsilyl)ethoxymethyl chloride (SEMCl) (1.0 mL, 5.6 mmol), K2CO3 (1.4 g, 10.4 mmol), and DMF (7 mL) was stirred for 10 h at 80° C. The mixture was diluted with EtOAc (20 mL) and washed with water (20 mL) and brine (20 mL) and the organic layer dried over MgSO4 and concentrated. The title compound was eluted from a 20-g SPE cartridge (silica) with 50% EtOAc/hexane to give 0.66 g (60%) of a colorless oil. Mass spectrum (ESI, m/z): Calcd. for C11H20N2O3Si, 257.1 (M+H), found 257.0.

reactant | 1H-imidazole-4-carboxylic acid methyl ester | 4.3 mmol, 0.54 g | COC(=O)C=1N=CNC1 | C5H6N2O2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 5.6 mmol, 1.0 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | K2CO3 | 10.4 mmol, 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester | 0.66 g, 60% | COC(=O)C=1N=CN(C1)COCC[Si](C)(C)C | C11H20N2O3Si
